US03935245
Two grams of 6α-hydroxyprogesterone is refluxed for 1 hour in 20 ml. of pyridine with 4 g. of succinic acid anhydride. After cooling, the solution is stirred into ice water and acidified with 1N hydrochloric acid. The smeary precipitation product is separated and dissolved in methylene chloride; the solution is washed with hydrochloric acid and water and evaporated under vacuum. The residue (2.57 g. of foam) is dissolved in methanol, combined with carbon, filtered, and the filtrate concentrated under vacuum. By trituration of the residue with pentane, 2.1 g. of amorphous (3,20-dioxo-4-pregnen-6α-yl) hydrogen succinate is produced. UV: ε238 = 14,100.

reactant | 6α-hydroxyprogesterone | Two grams | CC(=O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2C[C@@H](C4=CC(=O)CC[C@]34C)O)C | C21H30O3
reactant | succinic acid anhydride | C1(CCC(=O)O1)=O | C4H4O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (3,20-dioxo-4-pregnen-6α-yl) hydrogen succinate | C(CCC(=O)O)(=O)O[C@H]1C[C@H]2[C@@H]3CC[C@H](C(C)=O)[C@]3(CC[C@@H]2[C@]2(CCC(C=C12)=O)C)C | C25H34O6
